* wah-inductor.sub -- wah pedal inductors (Cry Baby / Vox type, ~0.5 H) for LTspice
*
* Subckt
*     wah_inductor  A B     inductance with winding resistance, optional core loss and
*                           self-capacitance
*     presets WAH_<part>, pins A B (see README.md, "Provenance")
*   Two-terminal part; A and B are interchangeable (no polarity, no coupling).
*
* Parameters (SI)
*     L      inductance (small-signal, LCR-meter value)                  [H]   (500m)
*     R      winding DC resistance                                       [ohm] (17)
*     Qc     core Q at 1 kHz: a core-loss resistance Rc = Qc*2*pi*1k*L across the
*            ideal inductance; 0 = lossless core (the default: no published data)  (0)
*     Cp     self-capacitance across A-B; 0 = not modelled (no published data) [F] (0)
*
* Equations
*     Z = [ jwL || Rc ] + R,  in parallel with 1/(jw Cp)
*     coil Q at f (Rc, Cp absent): Q = 2 pi f L / R, e.g. 0.5 H, 17 ohm: 185 at 1 kHz
*     with Rc: 1/Q = R/(wL) + wL/Rc
*
* Limits: constant L (no dependence on frequency, level or DC current), no saturation
* (in the Cry Baby the inductor carries only the base bias current of the gain stage,
* microamps, and signal currents below 1 mA), no hysteresis distortion, no stray
* magnetic coupling or hum pickup. See README.md.
*
* Design: Claude / Electrucio, 2026-09-14, for parts-index. Original text.
*
.subckt wah_inductor A B params: L=500m R=17 Qc=0 Cp=0
L1 A m {L} Rser=0
Rc A m {if(Qc > 0, Qc*2*pi*1k*L, 1T)}
Rw m B {max(R, 1m)}
Cp A B {if(Cp > 0, Cp, 1e-18)}
.ends wah_inductor

* ==== PRESETS (generated by make_symbols.py from wi_presets.py; edit there) ====
* Each preset takes Qc and Cp (default 0 = not modelled); see wi_presets.py and
* README.md "Provenance" for the source of every number.
*
* Dunlop red Fasel (toroid): L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/
.subckt WAH_RED_FASEL A B params: Qc=0 Cp=0
X1 A B wah_inductor L=583m R=17 Qc={Qc} Cp={Cp}
.ends WAH_RED_FASEL

* Dunlop yellow Fasel (cup core): L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/  (the tester's 24.26 mH is not credible)
.subckt WAH_YELLOW_FASEL A B params: Qc=0 Cp=0
X1 A B wah_inductor L=620m R=13.9 Qc={Qc} Cp={Cp}
.ends WAH_YELLOW_FASEL

* Dunlop Cry Baby GCB-95 stock (modern): L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/
.subckt WAH_GCB95 A B params: Qc=0 Cp=0
X1 A B wah_inductor L=645m R=17.4 Qc={Qc} Cp={Cp}
.ends WAH_GCB95

* Dunlop Cry Baby GCB-95 (late 90s-early 00s, black cylinder): L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/  (the tester's 24.85 mH is not credible)
.subckt WAH_GCB95_90S A B params: Qc=0 Cp=0
X1 A B wah_inductor L=690m R=14.6 Qc={Qc} Cp={Cp}
.ends WAH_GCB95_90S

* Dunlop Cry Baby GCB-95 (80s, Mexico): L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/
.subckt WAH_GCB95_80S A B params: Qc=0 Cp=0
X1 A B wah_inductor L=343m R=11.8 Qc={Qc} Cp={Cp}
.ends WAH_GCB95_80S

* Dunlop Hendrix Cry Baby (late 90s-early 00s): L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/  (the tester's 14.03 mH is not credible)
.subckt WAH_HENDRIX A B params: Qc=0 Cp=0
X1 A B wah_inductor L=564m R=13.7 Qc={Qc} Cp={Cp}
.ends WAH_HENDRIX

* Dunlop Cry Baby 535Q (metal can): L tester, R tester, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/  (only the tester reading is given for this part)
.subckt WAH_535Q A B params: Qc=0 Cp=0
X1 A B wah_inductor L=593.3m R=18.3 Qc={Qc} Cp={Cp}
.ends WAH_535Q

* Whipple Halo: L tester, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/  (the Honeytek value is printed as 522uH (unit typo); the tester's 580.7 mH is used)
.subckt WAH_HALO A B params: Qc=0 Cp=0
X1 A B wah_inductor L=580.7m R=27.8 Qc={Qc} Cp={Cp}
.ends WAH_HALO

* Sabbadius Soul Halo: L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/
.subckt WAH_SOUL_HALO A B params: Qc=0 Cp=0
X1 A B wah_inductor L=510m R=29.5 Qc={Qc} Cp={Cp}
.ends WAH_SOUL_HALO

* Mammoth / SBP ME-6: L Honeytek, R Fluke 87+, PedalPCB thread 24076 https://forum.pedalpcb.com/threads/wah-inductors-no-hype-just-measurements.24076/
.subckt WAH_MAMMOTH A B params: Qc=0 Cp=0
X1 A B wah_inductor L=622m R=29.4 Qc={Qc} Cp={Cp}
.ends WAH_MAMMOTH
